US06946552B2
Four amine bases were examined (Table 2) in THF or acetonitrile. Of the 4 amines examined, 2,2,6,6-tetramethylpiperidine gave the best results in both acetonitrile and THF (72%, 65%). Piperidine, which was used in the previous method, gave a low yield.

reactant | Four amine | CC1=C(C=C(C=C1)N)N | C7H10N2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | THF | C1CCOC1 | C4H8O
product | 2,2,6,6-tetramethylpiperidine | CC1(NC(CCC1)(C)C)C | C9H19N
